US06586429B2
To the stirring solution of (R)-7,8-dihydro-3-(5-hydroxyhexyl)-1-methyl-1H-imidazo[2,1-f]-purine-2,4(3H,6H)-dione (CT-13430) (200 mg, 0.65 mmol) and imidazole (68 mg, 1.0 mmol) in dimethylformamide (1 ml) was added tert-butyidimethylsilyl chloride (127 mg, 1.30 mmol). After stirred at room temperature for 16 hours, the reaction mixture was treated with water and extracted with ethyl acetate (2×15 ml). The combined extracts were washed with water (2×5 ml), with saturated aqueous sodium chloride solution (5 ml), and dried over magnesium sulfate. Concentrating under reduced pressure to provide (R)-7,8-dihydro-1-methyl-3-(5-tert-butyldimethylsilyloxyhexyl)-1H-imidazo[2,1-f]-purine-2,4(3H,6H)-dione (280 mg, 100% yield) as a white powder.

reactant | (R)-7,8-dihydro-3-(5-hydroxyhexyl)-1-methyl-1H-imidazo[2,1-f]-purine-2,4(3H,6H)-dione | 0.65 mmol, 200 mg | O[C@@H](CCCCN1C(N(C=2N=C3N(C2C1=O)CCN3)C)=O)C | C14H21N5O3
reactant | imidazole | 1.0 mmol, 68 mg | N1C=NC=C1 | C3H4N2
reactant | tert-butyidimethylsilyl chloride | 1.30 mmol, 127 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | water | O | H2O
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | (R)-7,8-dihydro-1-methyl-3-(5-tert-butyldimethylsilyloxyhexyl)-1H-imidazo[2,1-f]-purine-2,4(3H,6H)-dione | 280 mg, 100% yield | CN1C(N(C(C=2N3C(=NC12)NCC3)=O)CCCC[C@@H](C)O[Si](C)(C)C(C)(C)C)=O | C20H35N5O3Si
